* source ZAS
V_V1         IN 0 9Vdc
R_R2         N06257 N00567  100  
R_R1         0 N00583  25  
Q_Q1         IN N06308 N00567 Q2N5339
L_L1         N00567 N00583  330uH  
V_V3         N06308 N06257  
+PULSE -2 1.5 0 50n 50n 16.67u 25u
C_C1         0 N00583  470u  
D_D1         0 N00567 D1N5818 
